US07906677B2
1-(2-Chloro-6-methyl-phenyl)-5-ethyl-1,4,5,6-tetrahydro-indol-2-one can be oxidized by classical methods, e.g. with 10% Pd—C in refluxing xylene to yield N-(2-Chloro-6-methyl-phenyl)-5-ethyl-oxindole.

reactant | 1-(2-Chloro-6-methyl-phenyl)-5-ethyl-1,4,5,6-tetrahydro-indol-2-one | ClC1=C(C(=CC=C1)C)N1C(C=C2CC(CC=C12)CC)=O | C17H18ClNO
catalyst | Pd—C | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2-Chloro-6-methyl-phenyl)-5-ethyl-oxindole | ClC1=C(C(=CC=C1)C)N1C(CC2=CC(=CC=C12)CC)=O | C17H16ClNO
